US06548493B1
tert-butyl (6aS,10aR)-2-(5-fluoro-4-methoxy-2-methylphenyl)-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate
The title compound was prepared by the method of Example 89 step C from tert-butyl (6aS,10aR)-2-bromo-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH) carboxylate (189 mg, 0.5 mmol) and corresponding 5-fluoro-4-methoxy-2-methylphenyl boronic acid (184 mg, 1.0 mmol) to afford after chromatographic purification the title compound (130 mg, 60%). 1H NMR (CDCl3, 300 MHz) δ6.94 (d, 1H, J=12.5 Hz), 6.84 (s, 1H), 6.79-6.82 (m, 2H), 4.02-4.22 (m, 1H), 3.90 (s, 3H), 3.82-3.92 (m, 1H), 3.64-3.74 (m, 1H), 3.24-3.54 (m, 4H), 2.86-3.22 (m, 3H), 2.22 (s, 3H), 1.82-1.94 (m, 2H), 1.48 (s, 9H) ppm. MS-ApCI: 439 [M+H+].

reactant | tert-butyl (6aS,10aR)-2-bromo-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH) carboxylate | 0.5 mmol, 189 mg | BrC=1C=C2[C@H]3[C@@H](N4C2=C(C1)CC4)CCN(C3)C(=O)OC(C)(C)C | C18H23BrN2O2
reactant | 5-fluoro-4-methoxy-2-methylphenyl boronic acid | 1.0 mmol, 184 mg | FC=1C(=CC(=C(C1)B(O)O)C)OC | C8H10BFO3
product | tert-butyl (6aS,10aR)-2-(5-fluoro-4-methoxy-2-methylphenyl)-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate | FC=1C(=CC(=C(C1)C=1C=C2[C@H]3[C@@H](N4C2=C(C1)CC4)CCN(C3)C(=O)OC(C)(C)C)C)OC | C26H31FN2O3
